US09428510B2
500 mg (1.060 mmol) of 4-(4-methylpiperazine-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoic acid dissolved in 5 ml of tetrahydrofuran is added at 0° C. to a suspension of 201 mg (5.30 mmol) of LiAlH4 in 9 ml of tetrahydrofuran. The reaction mixture is stirred at 0° C. for 1 hour and then at room temperature for 3 hours. The reaction mixture is cooled at 0° C. and then, drop by drop, 200 μl water, then 200 μl of soda solution (15% by weight) and finally 1 ml of water are added. The reaction mixture is stirred at room temperature for 2 hours and then filtered and rinsed with tetrahydrofuran. The filtrate is concentrated to yield 250 mg (yield=77%) of (4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)phenyl)methanol in the form of a white solid.

reactant | 4-(4-methylpiperazine-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoic acid | 1.060 mmol, 500 mg | CN1CCN(CC1)C1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C19H24F3N3O4
reactant | LiAlH4 | 5.30 mmol, 201 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 200 μl | O | H2O
reactant | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
product | (4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)phenyl)methanol | 250 mg, yield=77% | CN1CCN(CC1)C1=CC(=C(C=C1)CO)NC1CCOCC1 | C17H27N3O2
